US07211573B2
To a solution of 31.5 g (15.5 mmol) 2-hydroxy-2-methyl-malonic acid monoethyl ester in 400 ml of tetrahydrofuran 16.9 g (17.1 mmol) of 2,2,2-trifluoroethylamine, 32.7 g (17.1 mmol) of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride, 23.1 g (17.1 mmol) of 1-hydroxybenzotrizole hydrate and 58.1 ml (34.2 mmol) of N,N-diisopropyl-ethylamine were added. The mixture was stirred at room temperature for 18 h. The solvent was removed by distillation and the residue was extracted with water/ethylacetate. Chromatography on silicagel with heptane/ethylacetate 1:1 yielded 25.4 g (67%) 2-hydroxy-2-methyl-N-(2,2,2-trifluoroethyl)-malonamic acid ethyl ester, MS m/e (%): 242.1 (M−H, 100).

reactant | 2-hydroxy-2-methyl-malonic acid monoethyl ester | 15.5 mmol, 31.5 g | C(C)OC(C(C(=O)O)(C)O)=O | C6H10O5
reactant | tetrahydrofuran | 17.1 mmol, 400 ml, 16.9 g | O1CCCC1 | C4H8O
reactant | 2,2,2-trifluoroethylamine | FC(CN)(F)F | C2H4F3N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 17.1 mmol, 32.7 g | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropyl-ethylamine | 34.2 mmol, 58.1 ml | C(C)(C)N(C(C)C)CC | C8H19N
product | 2-hydroxy-2-methyl-N-(2,2,2-trifluoroethyl)-malonamic acid ethyl ester | 25.4 g, 67% | C(C)OC(C(C(=O)NCC(F)(F)F)(C)O)=O | C8H12F3NO4
